US05556860
Synthesis of 3-(1-cyanomethylpyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
A solution of 203 mg (0.66 mmol) of 3-(pyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone, 95 mg (0.79 mmol) of bromoacetonitrile and 283 mg (2.8 mmol) of triethylamine in 5 mL of dimethyl-formamide was stirred for 6 hours at 70° C. After being cooled, the reaction mixture was diluted with water, and the mixture was extracted with chloroform. The organic layer separated was washed with water, dried on potassium carbonate and concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 226 mg (0.65 mmol) of the title compound as an about 1:2 mixture of the diastereomers.

reactant | 3-(pyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.66 mmol, 203 mg | N1C(CCC1)CN1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H21N3O
reactant | bromoacetonitrile | 0.79 mmol, 95 mg | BrCC#N | C2H2BrN
reactant | triethylamine | 2.8 mmol, 283 mg | C(C)N(CC)CC | C6H15N
solvent | dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(1-cyanomethylpyrrolidin-2-yl)methyl-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.65 mmol, 226 mg | C(#N)CN1C(CCC1)CN1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C21H22N4O
